US04122204
Preparation of 2-Isopropoxy-[N-methyl-N-(4-tert-butylphenylthiosulfenyl)carbamoyloxy]benzene
To a solution of 4.0 g (0.026 m) of 2-isopropoxyphenol and 7.11 g (0.026 m) of N-methyl-N-(p-tert-butylphenylthiosulfenyl)carbamoyl fluoride in 75 ml of toluene was added 2.63 g (0.026 m) of triethylamine. After stirring for 48 hours the reaction mixture was washed with water and dried over anhydrous MgSO4. The product was purified by dry column chromatography to give 2.5g of a white solid. m.p. 84°-85° C.

reactant | 2-isopropoxyphenol | 4.0 g | C(C)(C)OC1=C(C=CC=C1)O | C9H12O2
reactant | N-methyl-N-(p-tert-butylphenylthiosulfenyl)carbamoyl fluoride | 7.11 g | CN(C(=O)F)SSC1=CC=C(C=C1)C(C)(C)C | C12H16FNOS2
reactant | triethylamine | 2.63 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Isopropoxy-[N-methyl-N-(4-tert-butylphenylthiosulfenyl)carbamoyloxy]benzene | 2.5g | C(C)(C)OC1=C(C=CC=C1)OC(N(SSC1=CC=C(C=C1)C(C)(C)C)C)=O | C21H27NO3S2
